US07608633B2
G. 1-[3-(4-Octylphenoxy)-2-oxopropyl]pyrrole-2-carboxylic acid
0.045 g (0.105 mmol) tert-butyl-1-[3-(4-octylphenoxy)-2-oxopropyl]pyrrole-2-carboxylate is dissolved in 10 ml absolute dichloromethane and mixed with 0.900 g (7.89 mmol) trifluoroacetic acid. After stirring at room temperature for 1 hour, the batch is concentrated to dryness on the rotary evaporator. Two dissolutions in toluene and respective concentration on the rotary evaporator leave as a crude product a brownish solid which is recrystallized from methanol and some water drops and yields the product as a beige solid.

reactant | tert-butyl-1-[3-(4-octylphenoxy)-2-oxopropyl]pyrrole-2-carboxylate | 0.105 mmol, 0.045 g | C(C)(C)(C)OC(=O)C=1N(C=CC1)CC(COC1=CC=C(C=C1)CCCCCCCC)=O | C26H37NO4
reactant | trifluoroacetic acid | 7.89 mmol, 0.900 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[3-(4-Octylphenoxy)-2-oxopropyl]pyrrole-2-carboxylic acid | C(CCCCCCC)C1=CC=C(OCC(CN2C(=CC=C2)C(=O)O)=O)C=C1 | C22H29NO4
